US08114865B2
Preparation of 4-nitro-2-(tetrahydro-pyran-4-ylamino)-benzoic acid
4-Nitro-2-(tetrahydro-pyran-4-ylamino)-benzoic acid ethyl ester (11.2 g, 38 mmol) was dissolved in 200 mL of ethanol at 60° C. then 2N NaOH was added (40 mL, 80 mmol). The mixture was stirred at 60° C. for 4 hours, then the solvent removed under reduced pressure. The residue was taken-up with 200 mL of water and the mixture brought to acidic pH with 2N HCl (35 mL). The precipitated yellow solid was filtered, washed with plenty of water and dried in oven at 40° C. affording the title compound (9.3 g).

reactant | 4-Nitro-2-(tetrahydro-pyran-4-ylamino)-benzoic acid ethyl ester | 38 mmol, 11.2 g | C(C)OC(C1=C(C=C(C=C1)[N+](=O)[O-])NC1CCOCC1)=O | C14H18N2O5
reactant | NaOH | 2N | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-nitro-2-(tetrahydro-pyran-4-ylamino)-benzoic acid | 9.3 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1)NC1CCOCC1 | C12H14N2O5
